US04110242
III. 1-acetyl-6-methyl-5,6-dihydrouracil
In the manner described above, 65 gm (0.5 mol) of 6-methyl-5,6-dihydrouracil were reacted with 8 mols of acetic acid anhydride in the presence of 2 ml of H2SO4. The product recrystallized from isopropanol had a melting point of 107° C to 109° C and the following analysis values:

reactant | 6-methyl-5,6-dihydrouracil | 0.5 mol, 65 gm | CC1CC(NC(N1)=O)=O | C5H8N2O2
reactant | acetic acid anhydride | 8 mols | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
product | 1-acetyl-6-methyl-5,6-dihydrouracil | C(C)(=O)N1C(=O)NC(=O)CC1C | C7H10N2O3
